US04988681
Under a nitrogen atmosphere, a solution of 0.75 g (5.0 millimoles) of ethyl butylphosphinate in 5 ml of dry tetrahydrofuran was added dropwise over 10 minutes at -70° C. to a solution of 3.30 ml (5.1 millimoles) of 1.55 N butyllithium-hexane in 5 ml of dry tetrahydrofuran. The mixture was stirred at this temperature for 10 minutes, and then heated to -50 ° C. A solution of 1.18 g (5.0 millimoles) of ethyl 2-diethoxyphosphinoylpropenoate in ml of dry tetrahydrofuran was added dropwise over 10 minutes. The mixture was then stirred at 0° C. for hour. The mixture was cooled to -25° C., and a solution of 0.56 g (5.0 millimoles) of cyclohexanecarbaldehyde in 5 ml of dry tetrahydrofuran was added, and the mixture was stirred at this temperature for 2 hours and then at room temperature for 1 hour. To the reaction mixture was added 100 ml of a saturated aqueous solution of ammonium chloride, and the mixture was extracted twice with 80 ml of ethyl acetate each time. The combined organic layers were dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by medium-pressure liquid chromatography [Lobar column (a product of E. Merck & Co.), size C, Lichroprep SI 60, ethyl acetate)]. The first fraction was evaporated to give 0.38 g (yield 22%) of ethyl (Z)-2-(butylethoxyphosphinoyl)methyl-3-cyclohexylpropenoate as a colorless oil.

reactant | ethyl butylphosphinate | 5.0 millimoles, 0.75 g | C(CCC)P(OCC)=O | C6H15O2P
reactant | butyllithium hexane | 5.1 millimoles, 1.55 N, 3.30 ml | C(CCC)[Li].CCCCCC
reactant | ethyl 2-diethoxyphosphinoylpropenoate | 5.0 millimoles, 1.18 g | C(C)OP(=O)(C(C(=O)OCC)=C)OCC | C9H17O5P
reactant | cyclohexanecarbaldehyde | 5.0 millimoles, 0.56 g | C1(CCCCC1)C=O | C7H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | ml | O1CCCC1 | C4H8O
product | ethyl (Z)-2-(butylethoxyphosphinoyl)methyl-3-cyclohexylpropenoate | 0.38 g, yield 22% | C(CCC)P(=O)(OCC)C\C(\C(=O)OCC)=C/C1CCCCC1 | C18H33O4P
